US09085577B2
4-[2-Chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-tetrahydro-pyran (D28)
To a solution of intermediate compound D27 (2 g, 6.85 mmol) in 1,4-dioxane (10.8 ml) and DMF (1.2 ml) were added bis(pinacolato)diboron (2.01 g, 8.23 mmol) and potassium acetate (2.01 g, 20.55 mmol). The mixture was degassed and then [1,1′-bis(diphenylphosphino)-ferrocene]-dichloropalladium(II); complex with DCM (1:1) (0.16 g, 0.2 mmol) was added. The reaction mixture was heated at 150° C. for 10 min under microwave irradiation. After cooling to r.t., the mixture was filtered through a pad of diatomaceous earth. The diatomaceous earth was washed with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, and the solvent evaporated in vacuo to afford intermediate compound D28 (100%) as a crude that was used without further purification.

reactant | DMF | 1.2 ml | CN(C)C=O | C3H7NO
reactant | bis(pinacolato)diboron | 8.23 mmol, 2.01 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 20.55 mmol, 2.01 g | C(C)(=O)[O-].[K+]
reactant | DCM | 0.2 mmol, 0.16 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 10.8 ml | O1CCOCC1 | C4H8O2
product | 4-[2-Chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-tetrahydro-pyran | ClC1=C(OC2CCOCC2)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H24BClO4
